** sch_path: ./cace_ihp_sg13g2_demo/xschem/p1_noise_amp.sch
.subckt p1_noise_amp NOISE_AMP_P NOISE_AMP_N RAW_NOISE_P RAW_NOISE_N VCC VSS
*.opin NOISE_AMP_P
*.opin NOISE_AMP_N
*.ipin RAW_NOISE_P
*.ipin RAW_NOISE_N
*.iopin VCC
*.iopin VSS
XQ1 c1_n RAW_NOISE_P e1_1 sub! npn13G2 Nx=2 mm_ok=1
XQ2 c1_p RAW_NOISE_N e1_2 sub! npn13G2 Nx=2 mm_ok=1
XRC1_1 VCC c1_n sub! rppd w=1.0u l=0.7115u m=1 b=0 mm_ok=1
XRC1_2 c1_p VCC sub! rppd w=1.0u l=0.7115u m=1 b=0 mm_ok=1
XRE1_1 e1_1 e1_common sub! rppd w=13.333u l=0.50u m=1 b=0 mm_ok=1
XRE1_2 e1_2 e1_common sub! rppd w=13.333u l=0.50u m=1 b=0 mm_ok=1
XQS1 e1_common c_m1 e_s1 sub! npn13G2 Nx=1 mm_ok=1
XRDEG_S1 e_s1 VSS sub! rppd w=4.0u l=0.50u m=1 b=0 mm_ok=1
XQM1 c_m1 c_m1 e_m1 sub! npn13G2 Nx=1 mm_ok=1
XRDEG_M1 e_m1 VSS sub! rppd w=4.0u l=0.50u m=1 b=0 mm_ok=1
XRBIAS1 VCC c_m1 sub! rppd w=1.0u l=2.808u m=1 b=0 mm_ok=1
XCAC1 c1_n b2_p cap_cmim w=36.5u l=36.5u m=1 mm_ok=1
XCAC2 c1_p b2_n cap_cmim w=36.5u l=36.5u m=1 mm_ok=1
XRBDIV1 VCC vbias2 sub! rppd w=1.0u l=40.50u m=1 b=0 mm_ok=1
XRBDIV2 vbias2 VSS sub! rppd w=1.0u l=55.115u m=1 b=0 mm_ok=1
XRB2_1 vbias2 b2_p sub! rppd w=1.0u l=192.0u m=1 b=0 mm_ok=1
XRB2_2 b2_n vbias2 sub! rppd w=1.0u l=192.0u m=1 b=0 mm_ok=1
XQ4 NOISE_AMP_P b2_p e2_1 sub! npn13G2 Nx=1 mm_ok=1
XQ3 NOISE_AMP_N b2_n e2_2 sub! npn13G2 Nx=1 mm_ok=1
XRC2_2 VCC NOISE_AMP_P sub! rppd w=1.0u l=0.7115u m=1 b=0 mm_ok=1
XRC2_1 NOISE_AMP_N VCC sub! rppd w=1.0u l=0.7115u m=1 b=0 mm_ok=1
XRE2_1 e2_1 e2_common sub! rppd w=13.333u l=0.50u m=1 b=0 mm_ok=1
XRE2_2 e2_2 e2_common sub! rppd w=13.333u l=0.50u m=1 b=0 mm_ok=1
XQS2 e2_common c_m2 e_s2 sub! npn13G2 Nx=1 mm_ok=1
XRDEG_S2 e_s2 VSS sub! rppd w=4.0u l=0.50u m=1 b=0 mm_ok=1
XQM2 c_m2 c_m2 e_m2 sub! npn13G2 Nx=1 mm_ok=1
XRDEG_M2 e_m2 VSS sub! rppd w=4.0u l=0.50u m=1 b=0 mm_ok=1
XRBIAS2 VCC c_m2 sub! rppd w=1.0u l=2.808u m=1 b=0 mm_ok=1
XTAP1 VSS sub! ptap1 R={ 1.0 / ( 1.0 / ( 9.8e-10 / ( 2.0u * 2.0u ) ) + 1.0 / ( 9.8e-4 / ( 2.0 * ( 2.0u + 2.0u ) ) ) )} w=2.0u l=2.0u
.ends
.end
